* C:\home\ece2001\Designprojects\design2\Draft1.asc
* Generated by LTspice 24.1.7 for Windows.
V1 N003 N006 AC 40 30
L1 N003 N001 {4/w} Rser=0
C1 N001 N007 {1/(2*w)}
R1 N007 N006 8
V2 N007 0 AC 25 0
V3 N005 N008 AC 30 0
R2 N004 N005 3
C2 N004 N002 {1/(3*w)}
R3 N002 N001 6
I1 N001 N002 SINE(0 2) AC 2 0
L2 N002 0 {6/w} Rser=0
R4 N008 0 2
.param freq = 60
.param w={2*pi*freq}
.ac lin 100 60 120
.backanno
.end
