* C:\home\ece2001\reports\report5\Circuit3.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N001 0 PULSE(-5 5 0 .1p .1p 100u 200u)
S1 N002 N001 P001 0 SW
R1 N003 N002 2k
C1 N003 0 10n
V2 P001 0 PULSE(0 1 0 1p 1p 10)
.model SW SW(Ron=.001u, Roff=100Meg)
.tran .001
.backanno
.end
