* C:\home\ece2001\reports\report6\circuit4a.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N001 0 AC 1.35
R1 N002 N001 200
L1 N003 N002 10m
C1 N003 0 47n
.ac dec 1000 1 10Meg
.backanno
.end
